* Autogenerated spice file from design_project.m

* ee114 device models
.include /usr/class/ee214/hspice/ee214_hspice.sp
rc2  n_vdd n_x   250.0
rc4  n_vdd n_o   100.0
re4  n_z   n_ze  15.0
rf   n_yx  n_i   288.0
cl        n_o   0   20f
cd        n_i   0   200f
c_magic   n_ze  0   1.0
cf        n_yx  n_i 0.0f
m1    n_w   n_i   0     0     nmos214       w=49.3u l=0.18u
m2    n_x   n_b   n_w   0     nmos214       w=49.3u l=0.18u
m3    n_vdd n_x   n_y   0     nmos214       w=49.3u l=0.18u
m4    n_o   n_x   n_z   0     nmos214       w=49.3u l=0.18u
vdd   n_vdd   0     1.8
vb    n_b     0     1.8
vx    n_y     n_yx  0
ib3   n_y     0     1777.778u
ib4   n_z     0     4444.444u
is    n_i     0   DC=0  AC=1
.op
.ac dec 1000 1e3 1000e9
.lstb mode=single vsource=vx
.probe ac lstb(db) lstb(p)
.pz v(n_o) is
.noise v(n_o) is
.option post brief accurate
.end
